US06048872
(4-Amino-2,6-difluoro-phenoxy)-acetic acid methyl ester
A slurry of (4-nitro-2,6-difluoro-phenoxy)-acetic acid methyl ester (737 mg, 2.98 mmol) and 10% palladium on carbon (200 mg) in tetrahydrofuran (40 mL) was stirred under 1 atmosphere of hydrogen gas for 7 h. The mixture was flushed with nitrogen, and filtered through a pad of celite to afford the title compound as a pale tan oil (646 mg) that solidified on standing.

reactant | (4-nitro-2,6-difluoro-phenoxy)-acetic acid methyl ester | 2.98 mmol, 737 mg | COC(COC1=C(C=C(C=C1F)[N+](=O)[O-])F)=O | C9H7F2NO5
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 200 mg | [Pd] | Pd
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | (4-Amino-2,6-difluoro-phenoxy)-acetic acid methyl ester | 646 mg | COC(COC1=C(C=C(C=C1F)N)F)=O | C9H9F2NO3
